US04935431
Ethyl 2-ethoxycarbonyl-3-(4-methyl-3-thienylamino)prop-2-enoate (10.4 g, 0.036 mol) was added to a refluxing solution of freshly distilled diphenylether (110 ml). The reaction mixture was refluxed for 30 minutes, cooled, petroleum ether (b.p. 40°-60°, 100 ml) added and the mixture stirred. The crystalline solid was collected by filtration, washed with petroleum ether (b.p. 40°-60°) and dried to give 3-methyl-6-ethoxycarbonylthieno[3,2-b]pyridin-7(4H)-one, 7.23 g, m.p. 238-242°.

reactant | Ethyl 2-ethoxycarbonyl-3-(4-methyl-3-thienylamino)prop-2-enoate | 0.036 mol, 10.4 g | C(C)OC(=O)C(C(=O)OCC)=CNC1=CSC=C1C | C13H17NO4S
solvent | diphenylether | 110 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-methyl-6-ethoxycarbonylthieno[3,2-b]pyridin-7(4H)-one | CC1=CSC2=C1NC=C(C2=O)C(=O)OCC | C11H11NO3S
